US04661505
5-[4-(4-Benzoyl-3-hydroxy-2-propylphenoxy)butyl]-tetrazole
The title compound was prepared by first reacting 7.68 g. of 2,4-dihydroxy-3-propylbenzophenone with 4.86 g. of 5-bromovaleronitrile according to the procedure in Example 21. The reaction afforded 8.2 g. of the nitrile intermediate of the title compound. This nitrile intermediate was then converted to the tetrazole following the procedure of Example 8 giving 1.2 g. of the title compound, m.p. about 114°-115° C.

reactant | 2,4-dihydroxy-3-propylbenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1CCC)O | C16H16O3
reactant | 5-bromovaleronitrile | BrCCCCC#N | C5H8BrN
reactant | tetrazole | N1N=NN=C1 | CH2N4
product | 5-[4-(4-Benzoyl-3-hydroxy-2-propylphenoxy)butyl]-tetrazole | C(C1=CC=CC=C1)(=O)C1=C(C(=C(OCCCCC2=NN=NN2)C=C1)CCC)O | C21H24N4O3
